US06265411B1
A solution of 5-aminosulphonyloxindole (283 mg, 1.3 mmol), (prepared as described for the starting material in Example 60), in DMF (3.5 ml) was added dropwise to a suspension of sodium hydride (53 mg, 1.3 mmol, prewashed with hexane) in DMF (1.5 ml). The mixture was stirred for 30 minutes at ambient temperature and a solution of 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (150 mg, 0.44 mmol), (prepared as described for the starting material in Example 5), in DMF (4 ml) was added. The mixture was stirred for 20 minutes at 65° C., DMSO (2 ml) was added and heating was continued for 1 hour at 65° C. The mixture was allowed to cool, the volatiles were removed by evaporation and the residue was partitioned between ether and water. The aqueous layer was adjusted to pH7.8 with 1M hydrochloric acid and the resulting precipitate was collected by filtration, washed with water and ether, and dried under vacuum. The solid was dissolved in methanol/methylene chloride (1/1) and 2.2M ethereal hydrogen chloride (1 ml) was added. The mixture was stirred for 10 minutes at ambient temperature and the volatiles were removed by evaporation. The solid residue was triturated with ether, collected by filtration, washed with ether and dried under vacuum to give 4-(5-aminosulphonyloxindol-3-yl)-6-methoxy-7-(3-morpholinopropoxy)quinazoline hydrochloride (62 mg, 24%).

reactant | 5-aminosulphonyloxindole | 1.3 mmol, 283 mg | NS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C8H8N2O3S
reactant | sodium hydride | 1.3 mmol, 53 mg | [H-].[Na+]
reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.44 mmol, 150 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | DMSO | 2 ml | CS(=O)C | C2H6OS
solvent | DMF | 3.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 4-(5-aminosulphonyloxindol-3-yl)-6-methoxy-7-(3-morpholinopropoxy)quinazoline hydrochloride | 62 mg, 24% | Cl.NS(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)C1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | InChI=1S/C24H27N5O6S.ClH/c1-33-20-12-17-19(13-21(20)35-8-2-5-29-6-9-34-10-7-29)26-14-27-23(17)22-16-11-15(36(25,31)32)3-4-18(16)28-24(22)30;/h3-4,11-14,22H,2,5-10H2,1H3,(H,28,30)(H2,25,31,32);1H
